US07378417B2
5-(4-Chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid
To a solution of 7-chloro-5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidine (4.0 g, 12.0 mmol), tetrakis(triphenylphosphin)palladium (1.15 g, 1.0 mmol) in THF (20 mL) was added at 20° C. 0.25 M cyclopropylzinc chloride/THF suspension (ca. 192 mL, 48 mol; freshly prepared by stirring a mixture of 96 mL of 0.5 M cyclopropylmagnesium bromide/THF and 96 mL of 0.5 M zinc chloride/THF (96 mL) for 1 h at 0° C. followed by 1 h at 20° C.) and the mixture was refluxed in an atmosphere of argon for 2.5 h. After the slow addition at 0° C. of sat. aqueous ammonium chloride solution (30 mL), the mixture was partitioned between ethyl acetate and 10% sodium chloride solution. The organic layer was evaporated in vacuo and the residue chromatographed on silica gel using ethyl acetate/cyclohexane (1:4 v/v) as eluent to give after crystallization from ethyl acetate ethyl 5-(4-chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (2.54 g, 62%) as an off-white solid, mp 141-143° C. This material was saponified using in an analogous manner the procedure described in example C.22, step d), to give the title compound. Off-white solid, MS (ISN) 312.3 [(M−H)−]; mp 242-243° C.

reactant | 7-chloro-5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidine | 12.0 mmol, 4.0 g | ClC1=CC(=NC=2N1N=CC2)C2=CC=C(C=C2)Cl | C12H7Cl2N3
reactant | cyclopropylzinc chloride THF | 0.25 M | [Cl-].C1(CC1)[Zn+].C1CCOC1
reactant | cyclopropylmagnesium bromide THF | 0.5 M, 96 mL | C1(CC1)[Mg]Br.C1CCOC1
reactant | ammonium chloride | 30 mL | [Cl-].[NH4+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | zinc chloride THF | 0.5 M, 96 mL | [Cl-].[Zn+2].[Cl-].C1CCOC1
product | 5-(4-Chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C1CC1)N=CC2C(=O)O | C16H12ClN3O2
